US07622471B2
5-Hydrazino-2-methoxypyridine
Sodium nitrite (3.795 g) in water (20 mL) was added dropwise to 5-amino-2-methoxypyridine (6.207 g) in concentrated hydrochloric acid (50 mL) for 80 minutes with ice cooling, followed by stirring at a constant temperature for 30 minutes. Tin(II) chloride dihydrate (39.5 g) in concentrated hydrochloric acid (30 mL) was added dropwise to the reaction mixture at an internal temperature of about 10° C. for 60 minutes, followed by stirring at room temperature for 12.5 hours. Under cooling with ice, sodium hydroxide (54 g) in water (200 mL) and chloroform were added to the reaction mixture. After insoluble substances in the resultant mixture were removed by filtration, the mixture was partitioned. The aqueous layer was extracted with chloroform twice. The organic layers were combined, and dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, to thereby give the title compound as crystals (4.23 g, 60%).

reactant | Sodium nitrite | 3.795 g | N(=O)[O-].[Na+]
reactant | 5-amino-2-methoxypyridine | 6.207 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | Tin(II) chloride dihydrate | 39.5 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 54 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | hydrochloric acid | 30 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Hydrazino-2-methoxypyridine | 4.23 g, 60% | N(N)C=1C=CC(=NC1)OC | C6H9N3O
